US04096250
A solution of 10 g. (0.08 mole) of diethylphosphinous chloride in 100 ml. of ether was added to a solution of p-chlorophenyllithium [prepared from 15.4 g. (0.08 mole) of p-chlorobromobenzene in 100 ml. of ether and 54 ml. of 1.5M n-butyllithium in hexane] under a nitrogen atmosphere. After 30 minutes, the reaction mixture was quenched with a few drops of ethyl acetate and the solvent was removed at reduced pressure. Distillation of the residual oil gave (p-chlorophenyl)(diethyl)phosphine, b.p. 86°-89° C. at 1.5 mm.

reactant | diethylphosphinous chloride | 0.08 mole | C(C)P(CC)Cl | C4H10ClP
reactant | p-chlorophenyllithium | 0.08 mole, 1.5M, 100 ml, 15.4 g | ClC1=CC=C(C=C1)[Li]
reactant | p-chlorobromobenzene | 0.08 mole | ClC1=CC=C(C=C1)Br | C6H4BrCl
solvent | ether | CCOCC | C4H10O
product | (p-chlorophenyl)(diethyl)phosphine | ClC1=CC=C(C=C1)P(CC)CC | C10H14ClP
